US05512656
1.0 gm of methylbenzyhydrylamine resin, provided in accordance with Example 1 of U.S. Pat. No. 4,855,407, incorporated herein by reference, was placed in a peptide synthesis flask equipped with sintered glass filter at the bottom and an over head mechanical stirrer at the top. The resin was washed with 20 volumes of 10% triethylamine in methylene chloride and stirred with a fresh portion of the same solution for 10 minutes. The neutralized methylbenzhydrylamine resin was then allowed to react with 1.5 mmol of Boc-L-asparagine (0.35 g), 3.0 mmol of 1-hydroxybenzotriazole monohydrate (0.46 g) and 1.5 mmol of N,N'-dicyclohexylcarbodiimide (0.309 g) in 15 mL of N,N-dimethylformamide overnight to form Boc-L-asparaginyl methylbenzhydrylamine resin. The amino acid resin was acetylated with 2 mmol of acetic acid (0.12 mL) and 1.5 mmol of N,N'-dicyclohexylcarbodiimide for one hour in 20 mL methylene chloride in order to eliminate a very slightly positive reaction to ninhydrin test.

reactant | Boc-L-asparagine | 1.5 mmol, 0.35 g | C(=O)(OC(C)(C)C)N[C@@H](CC(N)=O)C(=O)O | C9H16N2O5
reactant | 1-hydroxybenzotriazole monohydrate | 3.0 mmol, 0.46 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N'-dicyclohexylcarbodiimide | 1.5 mmol, 0.309 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | Boc-L-asparaginyl methylbenzhydrylamine | C(=O)(OC(C)(C)C)N[C@@H](CC(N)=O)C(=O)N(C(C1=CC=CC=C1)C1=CC=CC=C1)C | C23H29N3O4
